US06506901B2
Step B: (2S)-2-{3-[4-(4-Formyl-piperidine-1-sulfonyl)-phenyl]-ureido}-3-phenyl-propionic Acid Benzyl Ester
Under anhydrous conditions, a solution of (2S)-2-{3-[4-(4-dimethoxymethyl-piperidine-1-sulfonyl)-phenyl]-ureido}-3-phenyl-propionic acid benzyl ester (0.78 g, 1.3 mmol), sodium iodide (0.491 g, 3.27 mmol), and trichloromethylsilane (0.308 mL, 2.62 mmol) in acetonitrile (20 mL) was stirred at ambient temperature for 15 minutes. The reaction mixture was quenched with water and partitioned with methylene chloride. The organic phase was washed with Na2S2O3 dilute solution and dried (Na2SO4). Removal of solvent afforded the crude product which was used directly in the next step without characterization.

reactant | (2S)-2-{3-[4-(4-dimethoxymethyl-piperidine-1-sulfonyl)-phenyl]-ureido}-3-phenyl-propionic acid benzyl ester | 1.3 mmol, 0.78 g | C(C1=CC=CC=C1)OC([C@H](CC1=CC=CC=C1)NC(=O)NC1=CC=C(C=C1)S(=O)(=O)N1CCC(CC1)C(OC)OC)=O | C31H37N3O7S
reactant | sodium iodide | 3.27 mmol, 0.491 g | [I-].[Na+]
reactant | trichloromethylsilane | 2.62 mmol, 0.308 mL | ClC(Cl)(Cl)[SiH3] | CH3Cl3Si
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | (2S)-2-{3-[4-(4-Formyl-piperidine-1-sulfonyl)-phenyl]-ureido}-3-phenyl-propionic Acid Benzyl Ester | C(C1=CC=CC=C1)OC([C@H](CC1=CC=CC=C1)NC(=O)NC1=CC=C(C=C1)S(=O)(=O)N1CCC(CC1)C=O)=O | C29H31N3O6S
